US05643932
In 20 ml of ethanol were suspended 367 mg of 3',4'-dihydroxy-2-chloroacetophenone and 430 mg of 3,4-dimethoxythiobenzamide. The suspension was refluxed for 3 hours with heating. After cooling, the resulting crystals were collected by filtration, ethanol-washed and dried. The dried material was recrystallized from ethanol to obtain 160 mg of 2-(3,4-dimethoxyphenyl)-4-(3,4-dihydroxyphenyl)thiazole hydrochloride as yellow acicular crystals.

reactant | 3',4'-dihydroxy-2-chloroacetophenone | 367 mg | OC=1C=C(C=CC1O)C(CCl)=O | C8H7ClO3
reactant | 3,4-dimethoxythiobenzamide | 430 mg | COC=1C=C(C(=S)N)C=CC1OC | C9H11NO2S
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(3,4-dimethoxyphenyl)-4-(3,4-dihydroxyphenyl)thiazole hydrochloride | 160 mg | Cl.COC=1C=C(C=CC1OC)C=1SC=C(N1)C1=CC(=C(C=C1)O)O | InChI=1S/C17H15NO4S.ClH/c1-21-15-6-4-11(8-16(15)22-2)17-18-12(9-23-17)10-3-5-13(19)14(20)7-10;/h3-9,19-20H,1-2H3;1H
